US09315475B2
Step 11: Preparation of (3S,6R)-4-(tert-butoxycarbonyl)-6-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-3-carboxylic acid
To tert-butyl (2R,5R)-5-(hydroxymethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate (1 eq) in DMF (0.1M) at rt were added PDC (10 eq) and 4A molecular sieve (1 g/mmol of substrate). The reaction mixture was stirred at rt for 16 hrs. The reaction mixture was then filtered on a celite and the celite pad was washed with EtOAc and water. The filtrate was extracted with EtOAc. The combined organic layers were washed with brine, 1N aqueous HCl and brine, dried over Na2SO4, filtered and concentrated. The crude product was used as such for next step.

reactant | tert-butyl (2R,5R)-5-(hydroxymethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | 1 eq | OC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H43N3O7
reactant | PDC | 10 eq | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | DMF | 0.1M | CN(C)C=O | C3H7NO
product | (3S,6R)-4-(tert-butoxycarbonyl)-6-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CO[C@@H](C1)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C35H41N3O8
